US06034239
Ethyl 3-(6,7-dibromo-2,3-dihydrobenzofuran-5-yl)propionate
Bromine (0.80 g, 5.01 mmol) was added dropwise to a mixture of ethyl 3-(7-bromo-2,3-dihydrobenzofuran-5-yl)propionate (1.0 g, 3.34 mmol) and iron (10 mg) in acetic acid (10 ml) and the reaction mixture was stirred at 50° C. for 5 hours. The reaction mixture was filtered and the filtrate was concentrated under reduced pressure. Water was added to the residue and the organic matter was extracted with ethyl acetate. The extract was washed with a saturated aqueous sodium bicarbonate solution, a saturated aqueous sodium chloride solution and water and then dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:3) to give 0.67 g (yield: 53%) of the target compound.

reactant | Bromine | 5.01 mmol, 0.80 g | BrBr | Br2
reactant | ethyl 3-(7-bromo-2,3-dihydrobenzofuran-5-yl)propionate | 3.34 mmol, 1.0 g | BrC1=CC(=CC=2CCOC21)CCC(=O)OCC | C13H15BrO3
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 10 mg | [Fe] | Fe
product | Ethyl 3-(6,7-dibromo-2,3-dihydrobenzofuran-5-yl)propionate | 0.67 g, yield: 53% | BrC1=C(C2=C(CCO2)C=C1CCC(=O)OCC)Br | C13H14Br2O3
